US08304419B2
Step A: 4-bromo-2-ethyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde
n-BuLi (1.42 mL of a 1.6 M solution in hexanes, 2.24 mmol) was added dropwise to a −78° C. solution of 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (0.98 g, 2.24 mmol) in THF (46 mL). The reaction mixture was stirred for 30 min and bromoethane (0.17 mL, 2.24 mmol) was added dropwise. The solution was stirred for 4 h at RT, cooled to −78° C., and n-BuLi (1.42 mL of a 1.6 M solution in hexanes, 2.24 mmol) was added dropwise. After 30 mins, DMF (2 mL, 23.9 mmol) was added. The reaction mixture was allowed to warm to RT, quenched by addition of sat'd NH4Cl and extracted with CH2Cl2. The organic phase was dried (Na2SO4), filtered, and purified by silica gel chromatography (0-70% EtOAc/hex) to afford the title compound (0.16 g, 22%) as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 9.69 (s, 1H), 5.70 (s, 2H), 3.50-3.60 (m, 2H), 2.79 (q, J=7.51 Hz, 2H), 1.35 (t, J=7.56 Hz, 3H), 0.78-0.98 (m, 2H), −0.04 (s, 9H).

reactant | n-BuLi | [Li]CCCC
reactant | 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 2.24 mmol, 0.98 g | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
reactant | bromoethane | 2.24 mmol, 0.17 mL | BrCC | C2H5Br
reactant | DMF | 23.9 mmol, 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 46 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-ethyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carbaldehyde | 0.16 g, 22% | BrC=1N=C(N(C1C=O)COCC[Si](C)(C)C)CC | C12H21BrN2O2Si
